US05859051
Step D: Preparation of 7-(3-bromopropoxy)-4-tert-butylmethyl-7-hydroxy-8-propylcoumarin
A solution of 4-tert-butyl-7-hydroxy-8-propylcoumarin (380 mg), 1,3-dibromopropane (0.45 ml) and potassium carbonate (240 mg) in 2-butanone (15 ml) was refluxed for five hours. The mixture was partioned between 0.2N HCl and ethyl acetate, dried over magnesium sulfate and concentrated. Column Chromatography (silica gel 60, 50% methylene chloride in hexane) gave the title compound.

reactant | 4-tert-butyl-7-hydroxy-8-propylcoumarin | 380 mg | C(C)(C)(C)C1=CC(OC2=C(C(=CC=C12)O)CCC)=O | C16H20O3
reactant | 1,3-dibromopropane | 0.45 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 240 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 0.2N | Cl | ClH
reactant | 2-butanone | 15 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(3-bromopropoxy)-4-tert-butylmethyl-7-hydroxy-8-propylcoumarin | BrCCCOC1(C=CC2=C(C(C(OC2=C1CCC)=O)C)C(C)(C)C)O | C20H29BrO4
